US09167821B2
2-[3,5-Bis(difluoromethyl)-1H-pyrazol-1-yl]-1-{4-[4-(5-{2-[(2-methoxyethoxy)methyl]phenyl}-4,5-dihydro-1,2-oxazol-3-yl)-1,3-thiazol-2-yl]piperidin-1-yl}ethanone (I-11)
2-Methoxyethanol (1.5 ml) was admixed at room temperature with sodium hydride (60%, 17 mg) and then stirred at room temperature for 2 hours. To this mixture was added dropwise a solution of 2-[3,5-bis(difluoromethyl)-1H-pyrazol-1-yl]-1-[4-(4-{5-[2-(chloromethyl)phenyl]-4,5-dihydro-1,2-oxazol-3-yl}-1,3-thiazol-2-yl)piperidin-1-yl]ethanone (0.20 g) in 2-methoxyethanol (1.5 g), and the mixture was then stirred at room temperature for 16 hours. Subsequently, the reaction mixture was admixed with water and dichloromethane. The organic extracts were dried over sodium sulphate and concentrated under reduced pressure. The residue was purified by chromatography. This gave 2-[3,5-bis(difluoromethyl)-1H-pyrazol-1-yl]-1-{4-[4-(5-{2-[(2-methoxyethoxy)methyl]phenyl}-4,5-dihydro-1,2-oxazol-3-yl)-1,3-thiazol-2-yl]piperidin-1-yl}ethanone (0.11 g).

reactant | sodium hydride | 17 mg | [H-].[Na+]
reactant | 2-[3,5-bis(difluoromethyl)-1H-pyrazol-1-yl]-1-[4-(4-{5-[2-(chloromethyl)phenyl]-4,5-dihydro-1,2-oxazol-3-yl}-1,3-thiazol-2-yl)piperidin-1-yl]ethanone | 0.20 g | FC(C1=NN(C(=C1)C(F)F)CC(=O)N1CCC(CC1)C=1SC=C(N1)C1=NOC(C1)C1=C(C=CC=C1)CCl)F | C25H24ClF4N5O2S
reactant | water | O | H2O
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | 2-methoxyethanol | 1.5 g | COCCO | C3H8O2
reactant | 2-Methoxyethanol | 1.5 ml | COCCO | C3H8O2
product | 2-[3,5-Bis(difluoromethyl)-1H-pyrazol-1-yl]-1-{4-[4-(5-{2-[(2-methoxyethoxy)methyl]phenyl}-4,5-dihydro-1,2-oxazol-3-yl)-1,3-thiazol-2-yl]piperidin-1-yl}ethanone | FC(C1=NN(C(=C1)C(F)F)CC(=O)N1CCC(CC1)C=1SC=C(N1)C1=NOC(C1)C1=C(C=CC=C1)COCCOC)F | C28H31F4N5O4S
